US08633207B2
To 2,2-difluoro-2-(5-fluoropyrimidin-2-yl)acetic acid (700 mg, 3.64 mmol) and 2-amino-3-chlorobenzoic acid (625 mg, 3.64 mmol) in pyridine (10 mL) was added triphenyl phosphite (1.05 mL, 4 mmol) and the mixture heated in a microwave synthesizer at 150° C. for 10 min. The mixture was allowed to cool to rt and then ethyl 3-aminopropanoate hydrochloride (615 mg, 4 mmol) was added. The mixture was heated in a microwave synthesizer at 190° C. for 4 min, and then concentrated under reduced pressure. The residue was partitioned between EtOAc and 4 N HCl, and the organic layer was dried over sodium sulfate and concentrated under reduced pressure. To the residue was added THF (10 mL) followed by sodium ethoxide (21% in EtOH, 1 mL) and the mixture was stirred at 65° C. for 0.5 h. An additional amount of sodium ethoxide (21% in EtOH, 1 mL) was added and the mixture was stirred at 60° C. for 30 min. The mixture was allowed to cool to rt, and then partitioned between EtOAc and 4 N HCl. The organic phase was dried over sodium sulfate and concentrated under reduced pressure. The residue was triturated with hexanes and Et2O, and the solid was collected by filtration to afford 8-chloro-2-(difluoro(5-fluoropyrimidin-2-yl)methyl)quinazolin-4-ol (420 mg, 35%) as a tan solid. LC-MS (ESI) m/z 327 (M+H)+.

reactant | 2,2-difluoro-2-(5-fluoropyrimidin-2-yl)acetic acid | 3.64 mmol, 700 mg | FC(C(=O)O)(C1=NC=C(C=N1)F)F | C6H3F3N2O2
reactant | 2-amino-3-chlorobenzoic acid | 3.64 mmol, 625 mg | NC1=C(C(=O)O)C=CC=C1Cl | C7H6ClNO2
reactant | triphenyl phosphite | 4 mmol, 1.05 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | ethyl 3-aminopropanoate hydrochloride | 4 mmol, 615 mg | Cl.NCCC(=O)OCC
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 8-chloro-2-(difluoro(5-fluoropyrimidin-2-yl)methyl)quinazolin-4-ol | 420 mg, 35% | ClC=1C=CC=C2C(=NC(=NC12)C(C1=NC=C(C=N1)F)(F)F)O | C13H6ClF3N4O
